US07553854B2
4-(2-((1R,2R)-2-hydroxycyclohexylamino)benzo[d]oxazol-6-yloxy)-N-methylpicolinamide
To the solution of N-methyl-4-(2-(methylsulfinyl)benzo[d]oxazol-6-yloxy)picolinamide (25 mg, 0.075 mmol, 1.0 eq) in 1 mL of NMP was added (1R,2R)-2-aminocyclohexanol hydrochloride (17 mg, 0.112 mmol, 1.5 eq) and DIPEA (40 μL, 0.225 mmol, 3.0 eq) and reaction mixture stirred at room temperature for 48 hours. Thereafter, the product was purified via reverse phase HPLC. LC/MS (m/z) [383.1] (MH+)

reactant | N-methyl-4-(2-(methylsulfinyl)benzo[d]oxazol-6-yloxy)picolinamide | 0.075 mmol, 25 mg, 1.0 eq | CNC(C1=NC=CC(=C1)OC1=CC2=C(N=C(O2)S(=O)C)C=C1)=O | C15H13N3O4S
reactant | (1R,2R)-2-aminocyclohexanol hydrochloride | 0.112 mmol, 17 mg, 1.5 eq | Cl.N[C@H]1[C@@H](CCCC1)O
reactant | DIPEA | 0.225 mmol, 40 μL, 3.0 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | 4-(2-((1R,2R)-2-hydroxycyclohexylamino)benzo[d]oxazol-6-yloxy)-N-methylpicolinamide | O[C@H]1[C@@H](CCCC1)NC=1OC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)NC | C20H22N4O4
